US09145415B2
To a suspension of 2-chloro-6-methyl-N-propylpyrimidin-4-amine (T1, 200 mg) in acetic acid (4 mL), N-iodosuccinimide (485 mg) was added at room temperature, and the mixture was stirred at 80° C. for 30 minutes. The reaction mixture was cooled to room temperature, and then saturated aqueous sodium hydrogensulfite, saturated aqueous sodium hydrogencarbonate and ethyl acetate were added to the reaction mixture. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent, 90-75% hexane in ethyl acetate) to obtain 2-chloro-5-iodo-6-methyl-N-propylpyrimidin-4-amine (T2, 252 mg).

reactant | 2-chloro-6-methyl-N-propylpyrimidin-4-amine | 200 mg | ClC1=NC(=CC(=N1)NCCC)C | C8H12ClN3
reactant | N-iodosuccinimide | 485 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-5-iodo-6-methyl-N-propylpyrimidin-4-amine | 252 mg | ClC1=NC(=C(C(=N1)NCCC)I)C | C8H11ClIN3
